* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N010 0 PULSE(0 48 0 100m 20m 200m 5 1)
V§BATT_1 N009 0 PULSE(0 16.8 20m 100m 100m 500m 5 1)
V§BATT_2 N008 0 PULSE(0 16.8 0 20u 0.1 10 11 1)
R1 UMBILICAL N007 10000
R2 N007 0 1750
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N020 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N019 N016 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N013 Umbilical_gate_control_signal 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
R8 N007 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N010 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N009 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N008 V=white(2e4*time) / 13
R3 BATT_1 N011 10000
R4 N011 0 5400
R6 BATT_2 N014 10000
R12 N014 0 5400
C7 N024 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N024 LOGIC_POWER 0 ADM7170-5.0
A3 N002 N004 0 0 0 N005 0 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05, Vlow = -10
R16 N001 N002 10000
R17 N002 0 9000
R18 N003 N004 5000
R19 N004 0 20000
C9 N004 0 1µ
M1 N006 N005 LOGIC_POWER LOGIC_POWER PMOS
C10 N005 0 1p
A6 Umbilical_gate_signal BATT_1_gate_signal BATT_2_gate_signal 0 0 0 N001 0 AND Vhigh = 2
D5 N006 BATT_2_gate_signal D
D6 N006 BATT_1_gate_signal D
D7 N006 Umbilical_gate_signal D
R20 N006 0 15000
R21 N005 0 1000
D11 N001 N003 D
D1 UMBILICAL LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 BATT_2 LDO_POWER D
R7 N012 UMBILICAL_GATE 1000
D8 N015 N012 DFLZ33
Q2 N017 N018 0 0 NPN
R15 Umbilical_gate_control_signal N018 1000
R22 N018 0 10000
R11 N012 UMBILICAL 10000
C5 UMBILICAL_GATE 0 10n
A1 N013 0 0 0 N016 0 BATT_1_gate_control_signal 0 AND Vhigh = 5, Td = 33n
A2 N013 0 N019 0 N020 0 BATT_2_gate_control_signal 0 AND Vhigh = 5, Td = 33n
R9 N021 BATT_1_GATE 1000
Q1 N022 N023 0 0 NPN
R10 BATT_1_gate_control_signal N023 1000
R14 N023 0 10000
R23 N021 BATT_1 10000
C1 BATT_1_GATE 0 10n
R24 N025 BATT_2_GATE 1000
Q3 N026 N027 0 0 NPN
R25 BATT_2_gate_control_signal N027 1000
R26 N027 0 10000
R27 N025 BATT_2 10000
C6 BATT_2_GATE 0 10n
R28 N021 N022 0.1
R29 N025 N026 0.1
R30 N015 N017 0.1
R31 UMBILICAL_GATE 0 10e4
C11 BATT_1_comparator 0 100n
R32 N011 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N014 BATT_2_comparator 1000
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Something with small voltage drop to fully act as a high side switch
* Extra pull up resistors so the gate wont be floating if it is disconected somehow
* Diodes to get a gradual turn on (for delaying purposes)
* Need to switch all the output signals to not invert the signal
* Ask if this extra pull up resistor is nessary
* Extra cap so that negitive voltage spike when the npn turns on doesn't affect the gate voltage
* NPN needs to resist like upwards of 50V
* Extra pull down so when the umbilical is disconected, the gate wont be in a high impedance state
* common switch debouncing values
.lib ADM7170-5.0.sub
.backanno
.end
